US09126935B2
4-(6,7-Dimethoxyquinolin-4-yloxy)benzenamine (60 mg, 202 μmol), 2-(4-fluorophenylamino)benzoic acid (56 mg, 243 μmol), and HATU (108 mg, 283 μmol) were combined in a resealable tube. DCM (1012 μl, 202 μmol) and N-ethyl-N-isopropylpropan-2-amine (71 μl, 405 μmol) were added, and the reaction mixture in the tube was allowed to stir at RT. Upon completion (as judged by LCMS), the reaction mixture was concentrated in vacuo, dissolved in minimal DMSO and purified by preparative HPLC {15-85% (0.1% TFA in CH3CN) in H2O over 20 min}. Fractions containing pure product were combined and neutralized with saturated aqueous NaHCO3 then extracted with EtOAc, dried over MgSO4, filtered, and concentrated in vacuo to afford pure N-(4-(6,7-dimethoxyquinolin-4-yloxy)phenyl)-2-(4-fluorophenylamino)benzamide as a off-white solid. MS Calcd for C30H24FN3O4: [M]+=509. Found: [M+H]+=510.

reactant | 4-(6,7-Dimethoxyquinolin-4-yloxy)benzenamine | 202 μmol, 60 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2-(4-fluorophenylamino)benzoic acid | 243 μmol, 56 mg | FC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C13H10FNO2
reactant | HATU | 283 μmol, 108 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DCM | 202 μmol, 1012 μl | C(Cl)Cl | CH2Cl2
reactant | N-ethyl-N-isopropylpropan-2-amine | 405 μmol, 71 μl | C(C)N(C(C)C)C(C)C | C8H19N
product | N-(4-(6,7-dimethoxyquinolin-4-yloxy)phenyl)-2-(4-fluorophenylamino)benzamide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC1=CC=C(C=C1)F)=O | C30H24FN3O4
